US06180632B2
To a solution of 2-(6,7-dimethoxy-quinoxalin-2-yl)-2-aza-bicyclo[2.2.2]octan-3-one (100 mg, 0.32 mmole) in 10 mL of methanol is added a freshly prepared NaOMe/methanol solution (54 mg, 1 mmole) and the mixture is stirred at ROOM TEMPERATURE for 0.5 hour before concentrated. Methylene chloride is used to extract and then dried with magnesium sulfate. The residue after filtration and concentration is chromatographed on silica gel (40% ethyl acetate) to give 85 mg (77%) of cis/trans-4-(6,7-dimethoxy-quinoxalin-2-ylamino)-cyclohexanecarboxylic acid methyl ester as a light yellow solid (m.p. 68-80° C.).

reactant | 2-(6,7-dimethoxy-quinoxalin-2-yl)-2-aza-bicyclo[2.2.2]octan-3-one | 0.32 mmole, 100 mg | COC=1C=C2N=CC(=NC2=CC1OC)N1C2CCC(C1=O)CC2 | C17H19N3O3
reactant | NaOMe methanol | 1 mmole, 54 mg | C[O-].[Na+].CO
solvent | methanol | 10 mL | CO | CH4O
product | trans-4-(6,7-dimethoxy-quinoxalin-2-ylamino)-cyclohexanecarboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)NC1=NC2=CC(=C(C=C2N=C1)OC)OC | C18H23N3O4
